US09427475B2
Step A: 2,2′-[(2-{[6-(benzyloxy)-6-oxohexyl]amino}-2-oxoethyl)imino]diacetic acid
To a solution of 6-(benzyloxy)-6-oxohexan-1-aminium 4-methylbenzenesulfonate (2.0 g, 5.08 mmol) in DMF (10 mL) at 0° C. was added K2CO3 (738 mg, 5.34 mmol). After stirring at 0° C. for 2 hr, the supernant of the reaction mixture was added to a solution of 3-(2,6-dioxomorpholin-4-yl)propanoic acid (1.10 g, 6.35 mmol) in DMF (10 mL) at 0° C. After stirring at 0° C. for 30 min, the reaction mixture was allowed to stir at rt for 1 hr and then cooled down to 0° C. followed by the addition of water (10 mL). The resulting mixture was concentrated and the residue was suspended in water (10 mL). After stirring at 0° C. for 16 hr, the solid was collected through filtration and dried to yield the title compound. 1H NMR (CD3OD) δ 7.36-7.30 (m, 5H), 5.11 (s, 2H), 3.56 (s, 4H), 3.43 (s, 2H), 3.23 (t, J=6.7, 2H), 2.39 (t, J=7.3, 2H), 1.68-1.62 (m, 2H), 1.57-1.51 (m, 2H), 1.40-1.35 (m, 2H).

reactant | 6-(benzyloxy)-6-oxohexan-1-aminium 4-methylbenzenesulfonate | 5.08 mmol, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C(C1=CC=CC=C1)OC(CCCCC[NH3+])=O
reactant | K2CO3 | 5.34 mmol, 738 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(2,6-dioxomorpholin-4-yl)propanoic acid | 6.35 mmol, 1.10 g | O=C1CN(CC(O1)=O)CCC(=O)O | C7H9NO5
reactant | water | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2,2′-[(2-{[6-(benzyloxy)-6-oxohexyl]amino}-2-oxoethyl)imino]diacetic acid | C(C1=CC=CC=C1)OC(CCCCCNC(CN(CC(=O)O)CC(=O)O)=O)=O | C19H26N2O7
